US04675276
In 100 ml of benzene were dissolved 9.3 g of 4-ethoxycarbonylphenylhydrazine and 3.6 g of methyl isothiocyanate and then the solution was refluxed with stirring. After heat-refluxing for 5 hours, the reaction mixture thus formed was cooled and crystals thus formed were collected by filtration to provide 1-(4-ethoxycarbonylphenyl)-4-methylthiosemicarbazide as colorless crystals. The product, 1-(4-ethoxycarbonylphenyl)-4-methylthiosemicarbazide thus obtained could be used for the subsequent reaction without being purified.

reactant | 4-ethoxycarbonylphenylhydrazine | 9.3 g | C(C)OC(=O)C1=CC=C(C=C1)NN | C9H12N2O2
reactant | methyl isothiocyanate | 3.6 g | CN=C=S | C2H3NS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-ethoxycarbonylphenyl)-4-methylthiosemicarbazide | C(C)OC(=O)C1=CC=C(C=C1)NNC(=S)NC | C11H15N3O2S
